US06664406B1
A solution of z-15-tetracosenoyl chloride, prepared according to Description 1, (0.129 mol, 49.7 g) in methylene chloride (500 mL) was added dropwise (over a period of 2.5-3 h) to a mixture of propane-1,3-diol (0.780 mol, 58.9 g) and triethylamine (0.323 mol, 32.6 g) in methylene chloride (1200 mL) at 0° C. under nitrogen. The mixture was left stirring in the ice bath for another 2 h, until TLC (80:18:2 petroleum ether-ethyl ether-acetic acid) showed that the by-product of the reaction started to form (Rf product: 0.16; by-product: 0.63). The solution was washed with 2M sulphuric acid (2×150 mL), saturated sodium bicarbonate (3×300 mL) and saturated sodium chloride (2×300 mL). It was finally dried over anhydrous sodium sulphate, concentrated and purified by flash chromatography on silica gel (7:3 petroleum ether-ethyl ether) to yield 1-hydroxy-3-(z-15-tetracosenoyloxy)propane as a white solid.

reactant | z-15-tetracosenoyl chloride | C(CCCCCCCCCCCCC\C=C/CCCCCCCC)(=O)Cl | C24H45ClO
reactant | propane-1,3-diol | 0.780 mol, 58.9 g | C(CCO)O | C3H8O2
reactant | triethylamine | 0.323 mol, 32.6 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1200 mL | C(Cl)Cl | CH2Cl2
product | 1-hydroxy-3-(z-15-tetracosenoyloxy)propane | OCCCOC(CCCCCCCCCCCCC\C=C/CCCCCCCC)=O | C27H52O3
